US05891909
b) 3-[3-(2,5-Dimethoxyphenyisulfonyloxy)-5-methylphenoxy]propanol
To 500 mg (1.54 mmol) of 3-(2,5-dimethoxyphenylsulfonyloxy)-5-methylphenol, as prepared in the preceding step, 1.1 mL (15 mmol) of 1,3-propanediol and 808 mg (3.08 mmol) of triphenylphosphine in 12 mL of anhydrous tetrahydrofuran was added 485 mg (3.08 mmol) of diethyl azodicarboxylate dropwise over 15 min. After stirring at ambient temperature for 1 h, the reaction mixture was concentrated to a yellow syrup. The resulting mixture was flash chromatographed on 40 g of silica gel with 50-75% ethyl acetate-hexane to afford a mixture of the desired product and triphenylphosphine oxide. Chromatography on 35 g of silica gel with 4% acetone-dichloromethane afforded 483 mg (82% yield) of the title compound as a colorless resin: 1H-NMR (300 MHz; CDCl3) δ 7.34 (d, 1 H, J=3.1 Hz), 7.15 (dd, 1 H, J=9.1, 3.1 Hz), 7.03 (d, 1 H, J=9.1 Hz), 6.59 (m, 1 H), 6.53 (m, 1 H), 6.48 (t, 1 H, J=2.1 Hz), 4.01 (t, 2 H, J=6.0 Hz), 3.97 (s, 3 H), 3.81 (dd, 2 H, J=11.2, 5.8 Hz), 3.76 (s, 3 H), 2.25 (s, 3 H) and 1.98 (pentet, 2 H, J=6.0 Hz).

reactant | 3-(2,5-dimethoxyphenylsulfonyloxy)-5-methylphenol | 1.54 mmol, 500 mg | COC1=C(C=C(C=C1)OC)S(=O)(=O)OC=1C=C(C=C(C1)C)O | C15H16O6S
reactant | 1,3-propanediol | 15 mmol, 1.1 mL | C(CCO)O | C3H8O2
reactant | triphenylphosphine | 3.08 mmol, 808 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 3.08 mmol, 485 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine oxide | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H15OP
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
product | 3-[3-(2,5-Dimethoxyphenyisulfonyloxy)-5-methylphenoxy]propanol | COC1=C(C=C(C=C1)OC)S(=O)(=O)OC=1C=C(OCCCO)C=C(C1)C | C18H22O7S
